US07361677B2
4-{[4-(4-Hydroxy-phenylsulfanyl)-butyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile (CAB03007)
Potassium carbonate (500 mg) was added to a solution of 4-[(2-bromo-butyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile (CAB03001, 384 mg, 1.2 mmol) and 4-hydroxy-thiophenol (227 mg, 1.8 mmol) in DMF (20 mL). The mixture was stirred for 18 hours at r.t., diluted with ethyl acetate (100 mL) and extracted with water (two times 30 mL) and brine (30 mL). The organic layer was dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (eluent: ethyl acetate, Rf: 0.30). The resulting oil was dissolved in a small amount of ethyl acetate and the product was precipitated by addition of hexane. Yield: 289 mg (66%). 1H-NMR (400 MHz, d6-DMSO) δ=1.48-1.64 (m, 4H) 2.81 (t, J=6.6 Hz, 2H), 3.81 (t, J=6.8 Hz, 2H), 6.62 (d, J=9.0 Hz, 2H), 6.72 (d, J=8.6 Hz, 2H), 7.19 (d, J=9.0 Hz, 2H), 7.72 (d, J=9.0, 2H), 8.94 (s, 2H), 9.56 (s, 1H, —OH). LRMS (FAB+): 366.1 (100, [M+H]+).

reactant | Potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-[(2-bromo-butyl)-[1,2,4]triazol-4-yl-amino]-benzonitrile | 1.2 mmol, 384 mg | BrC(CN(C1=CC=C(C#N)C=C1)N1C=NN=C1)CC | C13H14BrN5
reactant | 4-hydroxy-thiophenol | 1.8 mmol, 227 mg | OC1=CC=C(C=C1)S | C6H6OS
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[4-(4-Hydroxy-phenylsulfanyl)-butyl]-[1,2,4]triazol-4-yl-amino}-benzonitrile | OC1=CC=C(C=C1)SCCCCN(C1=CC=C(C#N)C=C1)N1C=NN=C1 | C19H19N5OS
